US04820705
2-(2-p-Toluenesulphonamido-indan-5-yl)-propionic acid
1 ml of 15N sodium hydroxide solution is added to 1.2 g of methyl 2-(2-p-toluenesulphonamido-indan-5-yl)-propionate in 12 ml of ethanol and the mixture is boiled for 0.5 hour. The mixture is evaporated, the residue is dissolved in water and the reaction product is precipitated with hydrochloric acid.

reactant | methyl 2-(2-p-toluenesulphonamido-indan-5-yl)-propionate | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(C(=O)OC)C)C | C20H23NO4S
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-(2-p-Toluenesulphonamido-indan-5-yl)-propionic acid | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(C(=O)O)C)C | C19H21NO4S
